US07176242B2
Step 7: 4-Butyl-1-(methylsulfonyl)-1,2,3,4-tetrahydroquinoxaline-6-carboxylic acid
To a stirred solution of methyl 4-butyl-1-(methylsulfonyl)-1,2,3,4-tetrahydroquinoxaline-6-carboxylate (144 mg) in methanol (1.3 mL) was added 1 M potassium hydroxide (13 mL). The mixture was stirred at room temperature for 48 h and concentrated under reduced pressure. The residue was diluted with water and washed with ethyl acetate. The aqueous layer was acidified to pH 4 with 1 N hydrochloric acid and extracted with chlorform (4×100 mL). The combined organic extracts were dried (sodium sulfate), filtered, and concentrated under reduced pressure to give 99 mg of the title compound: 1NMR (300 MHz, CDCl3) δ 7.43, 7.39, 7.24, 3.77, 3.39, 3.32, 1.56, 1.33, 0.90.

reactant | methyl 4-butyl-1-(methylsulfonyl)-1,2,3,4-tetrahydroquinoxaline-6-carboxylate | 144 mg | C(CCC)N1CCN(C2=CC=C(C=C12)C(=O)OC)S(=O)(=O)C | C15H22N2O4S
reactant | potassium hydroxide | 1 M, 13 mL | [OH-].[K+]
solvent | methanol | 1.3 mL | CO | CH4O
product | 4-Butyl-1-(methylsulfonyl)-1,2,3,4-tetrahydroquinoxaline-6-carboxylic acid | 99 mg | C(CCC)N1CCN(C2=CC=C(C=C12)C(=O)O)S(=O)(=O)C | C14H20N2O4S
